US06734179B2
To a stirred solution of 0.09 ml (2.23 mmol) methanol in 5 ml dioxane at room temperature was added 49 mg (1.12 mmol) sodium hydride (55% dispersion in mineral oil) and the mixture heated at 50° C. for 1 hour. 100 mg (0.22 mmol) 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide was then added and the mixture heated at 50° C. for 16 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was extracted three times with dichloromethane, and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate) followed by trituration in ether and hexane afforded 60 mg (67%) 2-methoxy-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide as a white crystalline solid. ES-MS m/e (%): 398 ([M−H]−, 100).

reactant | methanol | 2.23 mmol, 0.09 ml | CO | CH4O
reactant | sodium hydride | 1.12 mmol, 49 mg | [H-].[Na+]
reactant | 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | 0.22 mmol, 100 mg | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C19H18BrN3O3S
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-methoxy-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | 60 mg, 67% | COC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C20H21N3O4S
